US06919337B2
To a cooled (0° C.) slurry of 6-chloromethyluracil (2.0 g, 12 mmol) in THF/dioxan (1:1, 16 ml) is added 2-pyridyldiphenylphosphine (3.60 g, 13.7 mmol) and cyclobutanemethanol (1.3 ml, 13.8 mmol), followed by di-t-butylazodicarboxylate (3.15 g, 13.7 mmol). The reaction is stirred overnight at ambient temperature, treated with 4M HCl in dioxan (15 ml) and evaporated. The residue is taken up in dichloromethane, washed with 3.5M HCl, dried over magnesium sulfate and evaporated. The crude product is purified by flash chromatography (100:1 dichloromethane-methanol elution) to afford 6-chloro-1cyclobutylmethyl-3-methyl-1H-pyrimidine-2,4-dione, 1H NMR (400 MHz, CDCl3) δ1.70-2.0 (m 6H), 2.60 (m 1H), 3.20 (s 3H), 4.00 (d J 7 2H), 5.78 (s 1H), which is dissolved in n-butanol (50 ml). Veratrylamine (4 ml, 26.5 mmol) is added and the reaction heated to reflux for 16 hours. The solvent is evaporated and the residue taken into dichloromethane, washed with 1M aqueous HCl, dried over magnesium sulfate and evaporated. The crude product is purified by flash chromatography (50:1 dichloromethane-methanol elution) to afford 1-cyclobutylmethyl-6-(3,4-dimethoxy-benzylamino)-3-methyl-1H-pyrimidine-2,4-dione, 1H NMR (400 MHz, CDCl3) d 1.60-1.80 (m 4H), 1.80-2.00 (m 2H), 2.50 (m 1H), 3.21 (s 3H), 3.80 (s 6H), 3.85 (d J 7 2H), 4.11 (d J 5 1H), 4.25 (m 1H), 4.84 (s 1H), 6.74 (s 1H), 6.80 (s 2H), which is dissolved in formic acid (50 ml) and Pd black (0.26 g) added. The reaction is heated at 40° C. for 21 hours, filtered through Celite, evaporated and purified by preparative HPLC to afford 6-amino-1-cyclobutylmethyl-3-methyl-1H-pyrimidine-2,4-dione, M+209, which is converted using the general procedure for Intermediate 1 into 5,6-diamino-1-cyclobutylmethyl-3-methyl-1H-pyrimidine-2,4-dione, HPLC retention time 0.17 mins (30-95% acetonitrile water gradient in 4 minutes).

reactant | 6-chloromethyluracil | 12 mmol, 2.0 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
reactant | 2-pyridyldiphenylphosphine | 13.7 mmol, 3.60 g | N1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | cyclobutanemethanol | 13.8 mmol, 1.3 ml | C1(CCC1)CO | C5H10O
reactant | HCl | 4M | Cl | ClH
solvent | THF dioxan | 16 ml | C1CCOC1.O1CCOCC1
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-1cyclobutylmethyl-3-methyl-1H-pyrimidine-2,4-dione | ClC1=CC(N(C(N1CC1CCC1)=O)C)=O | C10H13ClN2O2
